US07851637B2
A solution of 4-bromophthalic anhydride (2.0 g) in toluene (20 mL) was treated with 33% methylamine in EtOH (1.65 mL) and a crystal of DMAP. After stirring for 1 h at ambient temperature, the mixture was heated to reflux under a dean-stark trap during 14 h. The reaction mixture was cooled to −20° C., and the resulting white crystals collected and washed with hexanes to give N-methyl-3-bromophthalimide (1.32 g) m.p. 149-151. Concentration of the mother liquor and recrystalization from benzene (3 mL) gave a second crop, 430 mg.

reactant | 4-bromophthalic anhydride | 2.0 g | BrC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3BrO3
reactant | methylamine | CN | CH5N
reactant | EtOH | 1.65 mL | CCO | C2H6O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-methyl-3-bromophthalimide | 1.32 g | CN1C(C=2C(C1=O)=C(C=CC2)Br)=O | C9H6BrNO2
